US08247401B2
Step B: methyl 3-bromo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
To a solution of methyl 3-bromo-5-iodobenzoate (2.06 g. 6.04 mmol) in dioxane (40 mL) were added bis(pinacolato)diboron (1.92 g, 7.55 mmol), potassium acetate (1.19 g, 12.1 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.22 g, 0.30 mmol). The mixture was degassed with argon and stirred at 80° C. After 42 h, the mixture was cooled to ambient temperature and filtered through Celite. The filtered cake was washed with ethyl acetate and the filtrate was concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) gave the title compound (1.74 g). MS 341.0 (M).

reactant | methyl 3-bromo-5-iodobenzoate | 6.04 mmol, 2.06 g | BrC=1C=C(C(=O)OC)C=C(C1)I | C8H6BrIO2
reactant | bis(pinacolato)diboron | 7.55 mmol, 1.92 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 12.1 mmol, 1.19 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.30 mmol, 0.22 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | methyl 3-bromo-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.74 g | BrC=1C=C(C(=O)OC)C=C(C1)B1OC(C(O1)(C)C)(C)C | C14H18BBrO4
